US06242443B1
6-Chloro-3-isobutylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide
A mixture of 2-amino-4-chlorobenzenesulfonamide (5.0 g, 24.18 mmol) and isobutyl isothiocyanate (10 ml, 83.6 mmol) was heated at 150° C. for 3 h. The mixture was allowed to cool and then stirred with 50 ml of ethyl acetate for 30 min. The precipitate was isolated by filtration and recrystallised from ethanol to give 2.9 g (42%) of the pure title compound; m.p. 298-301° C.; 1H-NMR (DMSO-d6): δ 0.91 (d, 6H, CH(CH3)2), 1.83 (m, 1H, CH(CH3)2), 3.05 (t, 2H, CH2), 7.2-7.4 (m, 3H, ArH+NH), 7.67 (d, 1H, ArH), 10.5 (br.s, 1H, NH); MS: m/e 287/289 (M+); (C11H14N3Cl1O2S1) calc. C, 45.91; H, 4.90; N, 14.60; found C, 45.90; H, 5.04; N, 14.66.

reactant | 2-amino-4-chlorobenzenesulfonamide | 24.18 mmol, 5.0 g | NC1=C(C=CC(=C1)Cl)S(=O)(=O)N | C6H7ClN2O2S
reactant | isobutyl isothiocyanate | 83.6 mmol, 10 ml | C(C(C)C)N=C=S | C5H9NS
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-3-isobutylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide | 2.9 g, 42% | ClC=1C=CC2=C(NC(=NS2(=O)=O)NCC(C)C)C1 | C11H14ClN3O2S
